US04239765
9 g (0.12 mol) of imidazole are added to a solution of 4.2 g (0.078 mols) of sodium methylate in 22 ml of methanol; a solution of 2-(7-chlorofluoren-2-yl)-3-chloro-1-(4-chlorophenyl)-propan-2-ol in 45 ml of dimethylformamide is then added dropwise and the mixture is warmed to 60° C. for 90 minutes. The mixture is poured into 2,000 ml of water, the crystalline mass which has separated out is dissolved in methylene chloride, the solution is washed with water, dried over sodium sulphate and filtered and the filtrate is concentrated in vacuo. The residue is made to crystallise by stirring with diethyl ether; the crystals are stirred with a little methyl alcohol and filtered off. 16.2 g (62.5% of theory) of 2-(7-chlorofluoren-2-yl)-1-(4-chlorophenyl)-3-(imidazol-1-yl)-propan-2-ol of melting point 218° C. are obtained.

reactant | imidazole | 0.12 mol, 9 g | N1C=NC=C1 | C3H4N2
reactant | sodium methylate | 0.078 mols, 4.2 g | C[O-].[Na+]
reactant | 2-(7-chlorofluoren-2-yl)-3-chloro-1-(4-chlorophenyl)-propan-2-ol | ClC1=CC=C2C=3C=CC(=CC3CC2=C1)C(CC1=CC=C(C=C1)Cl)(CCl)O | C22H17Cl3O
reactant | water | 2,000 ml | O | H2O
solvent | methanol | 22 ml | CO | CH4O
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 2-(7-chlorofluoren-2-yl)-1-(4-chlorophenyl)-3-(imidazol-1-yl)-propan-2-ol | 16.2 g, 62.5% | ClC1=CC=C2C=3C=CC(=CC3CC2=C1)C(CC1=CC=C(C=C1)Cl)(CN1C=NC=C1)O | C25H20Cl2N2O
